US07160888B2
Synthesis of 7-[4-(4-Indan-4-yl-piperazin-1-yl)-butoxy]-5-methyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one
The title compound was prepared by reductive amination of 4-(4-methyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde with 1-indan-4-yl-piperazine according to the above procedure. MS: APCI: M+1: 435.6 (Exact Mass: 434.27).

reactant | 4-(4-methyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | CC1=CC(=NC=2NC(CCC12)=O)OCCCC=O | C13H16N2O3
reactant | 1-indan-4-yl-piperazine | C1CCC2=C(C=CC=C12)N1CCNCC1 | C13H18N2
product | 7-[4-(4-Indan-4-yl-piperazin-1-yl)-butoxy]-5-methyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one | C1CCC2=C(C=CC=C12)N1CCN(CC1)CCCCOC1=CC(=C2CCC(NC2=N1)=O)C | C26H34N4O2
